US07691882B2
5-Chloro-2-chloromethyl-pyridine
To a mixture of (5-chloro-pyridine-2-yl)-methanol (706 mg, 4.92 mmol) described in Manufacturing Example 63-1-1 and dichloromethane (70 mL) was added thionyl chloride (539 μL, 7.38 mmol), which was stirred for 1 hour at room temperature. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, which was then extracted with dichloromethane. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (620.0 mg, 78%).

reactant | (5-chloro-pyridine-2-yl)-methanol | 4.92 mmol, 706 mg | ClC=1C=CC(=NC1)CO | C6H6ClNO
reactant | thionyl chloride | 7.38 mmol, 539 μL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 5-Chloro-2-chloromethyl-pyridine | 620.0 mg, 78% | ClC=1C=CC(=NC1)CCl | C6H5Cl2N
